US06380238B1
5-Fluoro-6-methylthioindole was prepared from 5-fluoro-6-methylthioindole-2,3-dione according to the method described in the preparation of 7-chloro-5-fluoroindole as a white solid (1.21 g, 37%): mp 51° C.; C9H8FNS requires: C, 59.65; H, 4.45; N, 7.73; S, 17.69%. Found C, 59.75; H, 4.44; N, 7.72; S, 17.65%; IR δmax (Nujol)/cm−1 3461, 3408, 3361, 2925, 2855, 1455, 1304 and 1137; NMR δH (400 MHz, CDCl3) 2.49 (3H, s), 6.49-6.51 (1H, m), 7.22 (1H, t, J 3.0 Hz), 7.30 (1H, d, J 10.0 Hz), 7.36 (1H, d, J 6.5 Hz), 8.0-8.25 (1H, brm).

reactant | 5-fluoro-6-methylthioindole-2,3-dione | FC=1C=C2C(C(NC2=CC1SC)=O)=O | C9H6FNO2S
reactant | 7-chloro-5-fluoroindole | 1.21 g | ClC=1C=C(C=C2C=CNC12)F | C8H5ClFN
product | 5-Fluoro-6-methylthioindole | FC=1C=C2C=CNC2=CC1SC | C9H8FNS
